US07759495B2
(2S)-2-(1-(4-bromophenyl)-3-ethoxy-1,3-dioxopropan-2-yl) 1-tert-butyl pyrrolidine-1,2-dicarboxylate
The ethyl 3-(4-bromophenyl)-3-oxopropanoate (15 g, 55 mmol) was dissolved in CH2Cl2 (600 mL) and freshly recrystallized NBS (9.8 g, 55 mmol) was added and the solution stirred 18 hr. The reaction mixture was washed with NaHCO3 solution, brine, and dried (MgSO4), filtered, and concentrated to give a residue which was not purified. Ethyl 2-bromo-3-(4-bromophenyl)-3-oxopropanoate (16.5 g, 48 mmol) and N-Boc-L-proline (10 g, 48 mmol) were taken up in acetonitrile (450 mL) and Hunig's base (16 mL, 95 mmol) was added and the solution stirred 18 hr. The solvent was removed by rotorary evaporation and the residue taken up in ethyl acetate, washed with 0.1 N HCl, and brine. 1H NMR (300 MHz, DMSO-d6) δ 7.95 (d, J=8.4 Hz, 2H), 7.79 (d, J=8.4 Hz, 2H), 6.68-6.65 (m, 1H), 4.39-4.30 (m, 1H), 4.21-4.12 (m, 2H), 2.27-2.21 (m, 1H), 2.0-1.95 (m, 1H), 1.90-1.76 (m, 2H), 1.39 (s, 2H), 1.31 (s, 9H), 1.11 (t, J=7.3Hz, 3H).

reactant | ethyl 3-(4-bromophenyl)-3-oxopropanoate | 55 mmol, 15 g | BrC1=CC=C(C=C1)C(CC(=O)OCC)=O | C11H11BrO3
reactant | NBS | 55 mmol, 9.8 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
reactant | Ethyl 2-bromo-3-(4-bromophenyl)-3-oxopropanoate | 48 mmol, 16.5 g | BrC(C(=O)OCC)C(=O)C1=CC=C(C=C1)Br | C11H10Br2O3
reactant | N-Boc-L-proline | 48 mmol, 10 g | C(=O)(OC(C)(C)C)N1[C@H](C(=O)O)CCC1 | C10H17NO4
reactant | Hunig's base | 95 mmol, 16 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | CH2Cl2 | 600 mL | C(Cl)Cl | CH2Cl2
solvent | acetonitrile | 450 mL | C(C)#N | C2H3N
product | (2S)-2-(1-(4-bromophenyl)-3-ethoxy-1,3-dioxopropan-2-yl) 1-tert-butyl pyrrolidine-1,2-dicarboxylate | N1(C(CCC1)C(=O)O[C@@H](C(=O)C1=CC=C(C=C1)Br)C(=O)OCC)C(=O)OC(C)(C)C | C21H26BrNO7
